US05003083
To a solution of L-(+)-diisopropyl tartarate (1.030 mg, 4.4 mmol) in absolute chloroform (40 ml), tetaraisopropyl titanate (1.136 mg, 4 mmol) was dropwise added and stirred at room temperature for 30 minutes. After evaporating volatile components off in the same manner as in Example 1, absolute chloroform (40 ml) was added to the residue and stirred at room temperature to obtain a homogeneous solution. To the resulting solution, trimethylsilyl cyanide (436 mg, 4.4 mmol) and then 3-phenoxybenzaldehyde (793 mg, 4 mmol) were added and stirred at room temperature for 14 hours. Thereafter, 1N hydrochloric acid (40 ml) was added and stirred at room temperature for 30 minutes. Then, the reaction mixture was extracted with dichloromethane and dried over sodium sulfate followed by evaporation of the solvent to give an oily product. The product was purified by column chromatography (silica gel, eluent: hexane/ethyl acetate) to obtain α-cyano-3-phenoxybenzyl alcohol (580 mg).

reactant | trimethylsilyl cyanide | 4.4 mmol, 436 mg | C[Si](C)(C)C#N | C4H9NSi
reactant | 3-phenoxybenzaldehyde | 4 mmol, 793 mg | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | hydrochloric acid | 1N, 40 ml | Cl | ClH
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | titanate | 4 mmol, 1.136 mg | [Ti] | Ti
product | α-cyano-3-phenoxybenzyl alcohol | 580 mg | C(#N)C(C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H11NO2
